US04602032
(e) 5-ethyl-4,5-dihydro-4-hydroxy-9,10-dimethoxy-2-methyl-4-n-propyl-dibenz[cd,f]indole (compound of formula III)
A solution of 377 ml (4.1M) of n-propyl bromide in 4 liters tetrahydrofuran is added over a period of 90 minutes at reflux to 99.8 g (4.1M) of magnesium turnings and the mixture is stirred for one hour at reflux. To the resultant mixture is added dropwise over 30 minutes and under a nitrogen atmosphere a solution of 880 g (2.73M) of 5-ethyl-4,5-dihydro-9,10-dimethoxy-2-methyl-4-oxo-dibenz[cd,f]indole in 6 liters tetrahydrofuran. The reaction mixture is warmed for 2 hours at reflux and then extracted with methylene chloride. The organic phase is washed with a saturated solution of potassium bicarbonate and with water, dried over sodium sulfate and evaporated to give the title compound in the form of a red-brown oil [IR Spectrum (CH2Cl2): 3540 cm-1 (OH)]. The crude product is directly used for the next step.

reactant | n-propyl bromide | 4.1M, 377 ml | CCCBr | C3H7Br
reactant | magnesium | 4.1M, 99.8 g | [Mg] | Mg
reactant | 5-ethyl-4,5-dihydro-9,10-dimethoxy-2-methyl-4-oxo-dibenz[cd,f]indole | 2.73M, 880 g | C(C)N1C(C=2C=3C(=C4C(=CC13)C=CC(=C4OC)OC)C=C(C2)C)=O | C20H19NO3
solvent | tetrahydrofuran | 4 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 liters | O1CCCC1 | C4H8O
product | 5-ethyl-4,5-dihydro-4-hydroxy-9,10-dimethoxy-2-methyl-4-n-propyl-dibenz[cd,f]indole | C(C)N1C(C=2C=3C(=C4C(=CC13)C=CC(=C4OC)OC)C=C(C2)C)(CCC)O | C23H27NO3
